* ============================================================================
* UberDrive (PedalPCB) — Boss SD-1 Super OverDrive, verbatim stock circuit
* PedalKernel Kits Validation Circuit
* ============================================================================
*
* Topology (mirrors uberdrive.pedal in pedalkernel-pro/pedals/kits/):
*   1. Input buffer — R1 (2M2) pulldown; R2 (10K) -> C1 (47n) -> Q1 base
*                     (R3 470K to VREF); Q1 emitter follower, R4 (10K)
*   2. Clipping     — IC1.1 non-inverting: C2 (18n) + R5 (100K to VREF);
*                     gain leg R7 (4K7) + C3 (47n) to VREF;
*                     feedback R6 (33K) + DRIVE (B1M);
*                     clipper: D3+D1 series (anode at output, +half at ~1.2V)
*                     antiparallel D2 (-half at ~0.6V) — the SD-1 2+1 asym
*   3. Active tone  — R8 (10K) -> node A (C4 18n shunt) -> IC1.2 +in and
*                     TONE lug1; lug3 -> node B (-in); wiper -> C5 (27n) ->
*                     R9 (470R) -> gnd; feedback R10 (10K) || C6 (10n)
*   4. Output       — C7 (1u) -> R11 (4K7) -> VOLUME (B10K); wiper -> R12
*                     (22K) -> C8 (47n) -> Q2 base (R13 1M to VREF);
*                     follower R14 (10K); R15 (1K) -> C9 (1u) -> out,
*                     R16 (100K) pulldown
*
* Refdes match the PedalPCB build doc (rev 09.01.19):
*   https://docs.pedalpcb.com/project/UberDrive.pdf
*
* House conventions: op-amps = ideal VCVS (1e5); VREF = ideal 4.5 V source;
* power section (D100/C100/R102/LED) omitted.
* SUBSTITUTION (documented): Q1/Q2 are 2SC732 in the doc — not in the model
* library; 2N5088 used here AND in the .pedal (same high-beta class,
* followers are beta-insensitive).
*
* Control positions (validation point — all B/linear pots at mid =
* taper- and direction-unambiguous):
*   Drive  = 0.5 -> 500K rheostat (Av = 1 + 533K/4.7K = 114)
*   Tone   = 0.5 -> 10K / 10K
*   Volume = 0.5 -> 5K / 5K
*
* Diode model: 1N916 = 1N914 die; same params as legends sd1.spice.
* ============================================================================

* ---- Supply and VREF ---------------------------------------------------------
VCC vcc 0 DC 9
Vref v_ref 0 DC 4.5

* ---- Input buffer -------------------------------------------------------------
R1 v_in 0 2.2meg
R2 v_in v_r2 10k
C1 v_r2 v_q1b 47n
R3 v_q1b v_ref 470k
Q1 vcc v_q1b v_q1e Q2N5088
R4 v_q1e 0 10k

.MODEL Q2N5088 NPN(IS=18f BF=600 BR=4.0 NF=1.0 NR=1.0 VAF=100 VAR=25 IKF=50m IKR=10m ISE=5f NE=1.5 ISC=0 NC=2.0 RB=10 RE=0.2 RC=0.3 CJE=6p VJE=0.7 MJE=0.33 CJC=4p VJC=0.7 MJC=0.33 TF=300p TR=30n)

* ---- Clipping stage (IC1.1, non-inverting, ideal VCVS) ------------------------
C2 v_q1e v_pos 18n
R5 v_pos v_ref 100k
Eu1 v_u1out 0 v_pos v_neg 100000

* Gain leg to VREF
R7 v_neg v_c3 4.7k
C3 v_c3 v_ref 47n

* Feedback: R6 + Drive (B1M at 0.5 = 500K rheostat)
R6 v_neg v_r6 33k
Rdrive v_r6 v_u1out 500k

* Asymmetric clipper: D3+D1 series (anode at output) || D2 reversed
D3 v_u1out v_d13 D1N916
D1 v_d13 v_neg D1N916
D2 v_neg v_u1out D1N916
.MODEL D1N916 D(Is=4.35n N=1.906 Rs=0.6 Cjo=2p)

* ---- Active tone stage (IC1.2) ------------------------------------------------
R8 v_u1out v_a 10k
C4 v_a 0 18n
* TONE (B20K at 0.5): lug1 = node A, lug3 = node B, wiper -> C5 -> R9 -> gnd
Rtone_top v_a v_tw 10k
Rtone_bot v_tw v_b 10k
C5 v_tw v_c5r 27n
R9 v_c5r 0 470
* Feedback R10 || C6
R10 v_b v_u2out 10k
C6 v_b v_u2out 10n
Eu2 v_u2out 0 v_a v_b 100000

* ---- Output stage --------------------------------------------------------------
C7 v_u2out v_c7 1u
R11 v_c7 v_vol 4.7k
* VOLUME (B10K at 0.5)
Rvol_top v_vol v_vw 5k
Rvol_bot v_vw 0 5k
R12 v_vw v_r12 22k
C8 v_r12 v_q2b 47n
R13 v_q2b v_ref 1meg
Q2 vcc v_q2b v_q2e Q2N5088
R14 v_q2e 0 10k
R15 v_q2e v_r15 1k
C9 v_r15 v_out 1u
R16 v_out 0 100k

* Speed up UIC settling (followers bias near VREF minus a Vbe)
.IC V(v_q1b)=4.2 V(v_q1e)=3.55 V(v_pos)=4.5 V(v_neg)=4.5 V(v_q2b)=4.35 V(v_q2e)=3.7 V(v_a)=4.5 V(v_b)=4.5
* Pre-charge coupling caps so v_out settles well inside the 100 ms window
* (C9 x (R15+R16) alone is a 0.1 s tau from a cold start)
.IC V(v_u2out)=4.5 V(v_c7)=0 V(v_vol)=0 V(v_vw)=0 V(v_r12)=0 V(v_r15)=3.7 V(v_out)=0

* ---- Standalone smoke test (stripped by the validation harness) ---------------
VIN v_in 0 SIN(0 0.1 1k)
.TRAN 5.2083u 100m
.CONTROL
  set filetype=ascii
  run
  meas tran vout_rms RMS v(v_out) from=50m to=100m
  meas tran vout_max MAX v(v_out) from=50m to=100m
  meas tran vout_min MIN v(v_out) from=50m to=100m
  meas tran vu1_max MAX v(v_u1out) from=50m to=100m
  meas tran vu1_min MIN v(v_u1out) from=50m to=100m
  quit
.ENDC
.END
